US06451814B1
4-[4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-piperidine-1-carboxylic Acidoctylamide
4-({4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}carbonyl)-N-octyl-1-piperidinecarboxamide formate(0.41 g, 0.771 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.27 g, 0.668 mmol) according to Procedure G to give the title compound (0.16 g, 0.180 mmol).

reactant | 4-({4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}carbonyl)-N-octyl-1-piperidinecarboxamide formate | 0.771 mmol, 0.41 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)C2CCN(CC2)C(=O)NCCCCCCCC)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.668 mmol, 0.27 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 4-[4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-piperidine-1-carboxylic Acidoctylamide | 0.180 mmol, 0.16 g | C(CCCCCCC)NC(=O)N1CCC(CC1)C(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C37H57N5O5
